US04791127
Synthesis Example 7: Preparation of 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole (No. 171):
8 g of 2-isopropylthio-1,3-thiazoline-4-one was dissolved in 100 ml of methylene chloride and cooled below 10° C. Then, 7.8 g of methanesulfonyl chloride and 12.6 ml of triethylamine were added dropwise to the solution below 15° C. with attention to out-break of heat. After that, the reaction was continued with stirring at room temperature for 2 hours. Water was added to the reaction mixture and extracted by ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. The oil obtained by concentration was purified by silica-gel column chromatography to obtain 9.1 g of the objective compound as a pale brown crystal (yield: 78.8%).

reactant | 2-isopropylthio-1,3-thiazoline-4-one | 8 g | C(C)(C)SC=1SCC(N1)=O | C6H9NOS2
reactant | methanesulfonyl chloride | 7.8 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-isopropylthio-4-methylsulfonyloxy-1,3-thiazole | 9.1 g, yield: 78.8% | C(C)(C)SC=1SC=C(N1)OS(=O)(=O)C | C7H11NO3S3
